US06313137B1
Synthesis of methyl 2,3-dimethyl-8-(2-ethyl-6-methylbenzylamino)-imidazo[1,2-a]pyridine-6-carboxylate
Methyl 8-amino-2,3-dimethylimidazo[1,2-a]pyridine-6-carboxylate (0.7 g, 3.2 mmol), 2-ethyl-6-methylbenzylchloride (0.54 g, 3.2 mmol), potassium carbonate (0.9 g, 6.4 mmol) and a cat. amount of potassium iodide were added to acetonitrile (20 ml) and were refluxed for 6 h. Following filtration, the acetonitrile was evaporated under reduced pressure to give an oil. The oily residue was solved in methylene chloride and washed with water. The organic layer was separated, dried over Na2SO4 and evaporated under reduced pressure to give a solid. Purification by column chromatography on silica gel using methylene chloride:ethylacetate (10:1) as eluent gave 0.42 g (38%) of the title compound.

reactant | Methyl 8-amino-2,3-dimethylimidazo[1,2-a]pyridine-6-carboxylate | 3.2 mmol, 0.7 g | NC=1C=2N(C=C(C1)C(=O)OC)C(=C(N2)C)C | C11H13N3O2
reactant | 2-ethyl-6-methylbenzylchloride | 3.2 mmol, 0.54 g | C(C)C1=C(CCl)C(=CC=C1)C | C10H13Cl
reactant | potassium carbonate | 6.4 mmol, 0.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | methyl 2,3-dimethyl-8-(2-ethyl-6-methylbenzylamino)-imidazo[1,2-a]pyridine-6-carboxylate | 0.42 g, 38% | CC=1N=C2N(C=C(C=C2NCC2=C(C=CC=C2C)CC)C(=O)OC)C1C | C21H25N3O2
